US08198269B2
(5) Synthesis of tert-butyl (±)-[(4aR*,8aS*)-8a-(6-amino-2,2-difluorobenzo[1,3]dioxol-4-yl)-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-yl]carbamate
Iron powder (7.09 mg) and a saturated ammonium chloride solution (1.0 ml) were added to a solution of tert-butyl (±)-[(4aR*,8aS*)-8a-(2,2-difluoro-6-nitrobenzo[1,3]dioxol-4-yl)-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-yl]carbamate (60.0 mg) in ethanol (20 ml), and the mixture was heated under reflux for 30 minutes. The reaction solution was returned to room temperature and the insoluble matter was removed by filtration through celite. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to obtain the title compound (50.0 mg).

reactant | ammonium chloride | 1.0 ml | [Cl-].[NH4+]
reactant | tert-butyl (±)-[(4aR*,8aS*)-8a-(2,2-difluoro-6-nitrobenzo[1,3]dioxol-4-yl)-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-yl]carbamate | 60.0 mg | FC1(OC2=C(O1)C=C(C=C2[C@@]21COCC[C@H]1CSC(=N2)NC(OC(C)(C)C)=O)[N+](=O)[O-])F | C19H21F2N3O7S
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | Iron | 7.09 mg | [Fe] | Fe
product | tert-butyl (±)-[(4aR*,8aS*)-8a-(6-amino-2,2-difluorobenzo[1,3]dioxol-4-yl)-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-yl]carbamate | 50.0 mg | NC=1C=C(C2=C(OC(O2)(F)F)C1)[C@@]12COCC[C@H]2CSC(=N1)NC(OC(C)(C)C)=O | C19H23F2N3O5S
